US04613676
BOC-Phe-His-Leu-Val-7-tert.-butoxycarbonylheptyl amide
In a manner analogous to that discribed in Example 1, using as starting materials 81 mg of BOC-Phe-His-OH, 79 mg of H-Leu-Val-7-tert.-butoxycarbonyl-heptyl amide, 28 mg of HOBt and 57 mg of DCCI, the title compound is obtained in the form of a colourless powder after flash chromatography (30 g of silica gel 60, 40-63 μm, system: methylene chloride/methanol/concentrated ammonia 800:50:1). Rf (methylene chloride/methanol/concentrated ammonia 500:50:1)=0.33.

reactant | BOC-Phe-His-OH | 81 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O)C(=O)OC(C)(C)C | C20H26N4O5
reactant | H-Leu-Val 7-tert.-butoxycarbonyl-heptyl amide | 79 mg | N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)O.C(C)(C)(C)OC(=O)CCCCCCC[NH-]
reactant | HOBt | 28 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCCI | 57 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | BOC-Phe-His-Leu-Val 7-tert.-butoxycarbonylheptyl amide | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C.C(C)(C)(C)OC(=O)CCCCCCC[NH-] | InChI=1S/C31H46N6O7.C12H24NO2/c1-18(2)13-22(28(40)37-25(19(3)4)29(41)42)34-27(39)24(15-21-16-32-17-33-21)35-26(38)23(14-20-11-9-8-10-12-20)36-30(43)44-31(5,6)7;1-12(2,3)15-11(14)9-7-5-4-6-8-10-13/h8-12,16-19,22-25H,13-15H2,1-7H3,(H,32,33)(H,34,39)(H,35,38)(H,36,43)(H,37,40)(H,41,42);13H,4-10H2,1-3H3/q;-1/t22-,23-,24-,25-;/m0./s1
